US05519024
1.5 g of ethyl 6,7,8-trifluoro-4-hydroxyquinoline-3-carboxylate was dissolved in 30 ml of DMF, and 0.43 g of 60% oily sodium hydride was added, followed by stirring at 80° C. in a nitrogen gas stream for 20 minutes. To this solution, 1.9 g of 4-chloromethylthiazole hydrochloride was added, followed by stirring at constant temperature for 15 hours, after which the reaction mixture was concentrated to dryness. The residue was dissolved in CHCl3 ; the organic layer was washed with water and dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate=1:2) to yield 0.46 g of ethyl 6,7,8-trifluoro-1-(4-thiazolylmethyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate as a colorless powder. This product was suspended in a mixture of acetic acid and water (3 ml:3 ml); 0.33 ml of sulfuric acid was added, followed by stirring at 120° C. for 30 minutes. The reaction mixture was allowed to cool to room temperature, and the resulting crystal was collected by filtration to yield 0.38 g of the title compound as a colorless powder.

reactant | ethyl 6,7,8-trifluoro-4-hydroxyquinoline-3-carboxylate | 1.5 g | FC=1C=C2C(=C(C=NC2=C(C1F)F)C(=O)OCC)O | C12H8F3NO3
reactant | sodium hydride | 0.43 g | [H-].[Na+]
reactant | 4-chloromethylthiazole hydrochloride | 1.9 g | Cl.ClCC=1N=CSC1
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | ethyl 6,7,8-trifluoro-1-(4-thiazolylmethyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.46 g | FC=1C=C2C(C(=CN(C2=C(C1F)F)CC=1N=CSC1)C(=O)OCC)=O | C16H11F3N2O3S
